US07951836B2
Rac-(3-Hydroxymethyl-pyrrolidin-1-yl)-[5-methanesulfonyl-2-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-methanone
To a solution of 0.01 mol 5-Methanesulfonyl-2-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid (CAS: 845616-82-2) in 40 ml N,N-dimethylformamide were added successively 3.57 g TBTU, 8.5 ml N-ethyldiisopropylamine and 1 g rac-pyrrolidin-3-yl-methanol (CAS: 5082-74-6). The reaction mixture was stirred at room temperature for 16 h and then concentrated in vacuo. The mixture was taken in ethyl acetate and washed twice with water and twice with saturated NaHCO3. The organic phase was dried over Na2SO4 and filtered. The solvent was evaporated. The crude oil was purified on silica gel (eluent: ethyl acetate) to yield the title compound as an off white foam. MS (m/e): 396.1 (M+H+, 100%).

reactant | 5-Methanesulfonyl-2-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-benzoic acid | 0.01 mol | CS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)O[C@H](C(F)(F)F)C | C11H11F3O5S
reactant | TBTU | 3.57 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-ethyldiisopropylamine | 8.5 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | rac-pyrrolidin-3-yl-methanol | 1 g | N1CC(CC1)CO | C5H11NO
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | Rac-(3-Hydroxymethyl-pyrrolidin-1-yl)-[5-methanesulfonyl-2-((S)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-methanone | OCC1CN(CC1)C(=O)C1=C(C=CC(=C1)S(=O)(=O)C)O[C@H](C(F)(F)F)C | C16H20F3NO5S
